US06133285
N-Methyl-N-(4-trifluoromethyl-phenyl)-1,2-dihydro-4-hydroxy-5-methoxy-1-methyl-2-oxo-quinoline-3-carboxamide (Method B)
To an ice-cold solution of 1,2-dihydro-4-hydroxy-5-methoxy-1-methyl-2-oxo-quinoline-3-carboxylic acid (8 g, 0.032 mol), triethylamine (15.5 ml, 0.11 mol) and 4-trifluoromethyl-N-methylaniline (6.1 g, 0.035 mol) in 150 ml of methylene chloride was added dropwise during 0.5 hours a solution of thionyl chloride (3.0 ml, 0.042 mol) in 10 ml of methylene chloride. The stirring was continued at 4° C. for 4 hours. The solution was diluted with 10 ml of methylene chloride, washed with cold 1 M sulphuric acid and then extracted with 1 M sodium hydroxide. The pH of the aqueous phase was adjusted to 8-8.5, clarified by filtration and then acidified with hydrochloric acid to pH 4. On standing a crystalline precipitate was formed which was filtered off, washed with water and dried to give the title compound (8.5 g) yield 65%.

reactant | 1,2-dihydro-4-hydroxy-5-methoxy-1-methyl-2-oxo-quinoline-3-carboxylic acid | 0.032 mol, 8 g | OC1=C(C(N(C2=CC=CC(=C12)OC)C)=O)C(=O)O | C12H11NO5
reactant | triethylamine | 0.11 mol, 15.5 ml | C(C)N(CC)CC | C6H15N
reactant | 4-trifluoromethyl-N-methylaniline | 0.035 mol, 6.1 g | FC(C1=CC=C(NC)C=C1)(F)F | C8H8F3N
reactant | thionyl chloride | 0.042 mol, 3.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-Methyl-N-(4-trifluoromethyl-phenyl)-1,2-dihydro-4-hydroxy-5-methoxy-1-methyl-2-oxo-quinoline-3-carboxamide | 8.5 g, yield 65% | CN(C(=O)C=1C(N(C2=CC=CC(=C2C1O)OC)C)=O)C1=CC=C(C=C1)C(F)(F)F | C20H17F3N2O4
